US04420424
(A) H-Tyr(But)-O-CH(CH3)2.HCl
18.6 g (50 mmoles) of Z-Tyr(But)-OH in 30 ml of pyridine are reacted with 30 ml of isopropanol and 40 ml of a 50 percent solution of propylphosphonic anhydride in methylene chloride analogously to Example 30 A. The resulting oil is subjected to catalytic hydrogenation analogously to Example 25 B. The substance crystallizes from ether. Yield 13.15 g (83%), melting point 161°-163°, [α]D23 =+15.7° (c=1, methanol).

reactant | Z-Tyr(But)-OH | 50 mmoles, 18.6 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | isopropanol | 30 ml | C(C)(C)O | C3H8O
reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | H-Tyr(But)-O-CH(CH3)2.HCl | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)C.Cl | InChI=1S/C16H25NO3.ClH/c1-11(2)19-15(18)14(17)10-12-6-8-13(9-7-12)20-16(3,4)5;/h6-9,11,14H,10,17H2,1-5H3;1H/t14-;/m0./s1
